Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Fenofibrate / Crestor / Oxycodone / Keflex / 
glipizide
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ h/o CAH, DM2, obesity, legal blindness who presents with 5 
days of abdominal pain and ___. 

Four days ago she began experiencing sharp abdominal pain with 
nausea/intermittent vomiting with meals. She has also 
experienced multiple episodes of diarrhea. She presented today 
to urgent care  and was subsequently transferred in the ED.

In the ED her vitals were 98.2  116  144/73  16  97%RA. Her labs 
were notable for BUN/Cr of 49/2.0, Hb 9.1/31.3 (down from 
baseline ___, normal LFTs, WBC 6.0. On exam she was found to 
have a distended abdomen but without guarding or rebound 
tenderness. A CT scan was performed which showed "partial/early 
small bowel obstruction with dilated small bowel loops." ACS was 
consulted and did not believe that clinically she had a SBO. She 
was kept NPO and given 1.5L NS. She was admitted to medicine for 
further management of SBO, ___, and anemia. 

On the floor today, vitals were 97.8 125/90 108 19 98 RA. She 
continues to endorse significant abdominal pain and feels very 
gassy. She passed flatus multiple times during the interview. 
She said she is not currently feeling nauseous or vomiting. She 
denies fevers, chills, shortness of breath, chest pain, 
palpitations, dysuria, urinary frequency, headache. 

 
Past Medical History:
 - CAH  
 - HTN  
 - HLD  
 - DM2  
 - Asthma  
 - Congenital nystagmus  
 - Psoriasis  
 - Aphakic bullous keratopathy  
 - Myopic retinal degeneration (legally blind)  
 - Glaucoma  
 - Pelvic fracture  
 - R distal radius Colles fracture  

 
Social History:
___
Family History:
Significant for breast cancer, ___
 
Physical Exam:
ADMISSION EXAM:
VS:  97.8 125 / 90 108 19 98 RA
General: Morbidy obese woman, uncomfortable but in no acute 
distress
HEENT: Dry MMs, no scleral icterus, poor dentition, no JVD
CV: Regular rhythm but tachycardic, no m/r/g
Pulm: CTAB
Abdomen: Obese, moderately distended but soft. Mild tenderness 
without any specific foci. Normal bowel sounds. No rebound 
tenderness or guarding
ext: wwp no edema
Neuro: A&Ox3 eventually, but initially said it was ___. Some 
tangentiality and difficulty focusing on the conversation

DISCHARGE EXAM:
VS:  98.4 135 / 73 96 20 99 RA 
General: Morbidy obese woman in no acute distress
HEENT: MMMs, no scleral icterus, poor dentition, no JVD
CV: Regular rhythm but tachycardic, no m/r/g
Pulm: CTAB
Abdomen: Obese, moderately distended but soft. Mild tenderness 
without any specific foci, improved from previous exams. Normal 
bowel sounds. No rebound tenderness or guarding.
ext: wwp no edema
Neuro: A&Ox3
 
Pertinent Results:
================
ADMISSION LABS
=================
___ 11:45AM BLOOD WBC-6.0# RBC-3.80* Hgb-9.1*# Hct-31.3*# 
MCV-82# MCH-23.9*# MCHC-29.1*# RDW-17.0* RDWSD-51.0* Plt ___
___ 11:45AM BLOOD Neuts-43 Bands-6* ___ Monos-14* 
Eos-2 Baso-0 ___ Myelos-0 AbsNeut-2.94 AbsLymp-2.10 
AbsMono-0.84* AbsEos-0.12 AbsBaso-0.00*
___ 11:45AM BLOOD Plt Smr-NORMAL Plt ___
___ 11:45AM BLOOD Glucose-177* UreaN-49* Creat-2.0* Na-135 
K-4.2 Cl-103 HCO3-16* AnGap-20
___ 11:45AM BLOOD ALT-20 AST-13 AlkPhos-105 TotBili-0.4
___ 11:45AM BLOOD Albumin-3.5
___ 12:11PM BLOOD Lactate-1.8

===============
DISCHARGE LABS
===============
___ 06:57AM BLOOD WBC-4.9 RBC-4.03 Hgb-9.6* Hct-33.7* 
MCV-84 MCH-23.8* MCHC-28.5* RDW-17.2* RDWSD-52.9* Plt ___
___ 06:57AM BLOOD Plt ___
___ 06:57AM BLOOD Glucose-122* UreaN-16 Creat-0.9 Na-140 
K-4.1 Cl-107 HCO3-15* AnGap-22*
___ 06:00AM BLOOD LD(LDH)-181 TotBili-0.3 DirBili-<0.2 
IndBili-0.3
___ 06:57AM BLOOD Calcium-8.8 Phos-2.8 Mg-1.8
___ 06:00AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.8 Iron-26*
___ 06:00AM BLOOD calTIBC-290 Hapto-425* Ferritn-79 TRF-223

===============
IMAGING
===============
CT Abdomen/Pelvis ___:
Findings concerning for partial small bowel obstruction vs 
ileus, with dilated 
small bowel loops in the mid abdomen which taper in the mid to 
right lower 
quadrant, with no clear transition point.  Mesenteric edema is 
seen.  No 
mesenteric free fluid identified. 

 
Brief Hospital Course:
SUMMARY: ___ h/o CAH, DM2, obesity, legal blindness who presents 
with abdominal pain consistent with ileus. She had a CT abdomen 
that was initially concerning for SBO, but our Acute Care 
Surgery team evaluated her and clinically she had no signs of 
SBO. She was kept NPO initially, given IV fluids, and quickly 
improved. She had ___ that resolved after fluid 
administration. Upon discharge, her abdominal pain was improving 
and she was tolerating a regular diet. 

ACUTE ISSUES:
# Abdominal pain: Patient presented with 4 days of abdominal 
pain and nausea, and her CT abdomen/pelvis was initially 
concerning for partial SBO. However, clinically, the patient did 
not appear to have any evidence of SBO as she is passing flatus, 
has a benign exam, and has no history of abdominopelvic 
surgeries. She was managed conservatively and continued to have 
BMs and pass flatus. Her diet was advanced to regular and she 
was tolerating a regular diet upon discharge. 

# ___: Patient presented creatinine elevated to 2.0 from 
baseline 1.2. Etiology likely volume depletion in the setting of 
diarrhea leading up to presentation. Her ___ resolved with IV 
fluid repletion. 

# Anemia: Patient is anemic to a hemoglobin 9.1, from baseline 
___. Absolute reticulocyte count was low. Hemolytic workup was 
negative. Iron studies showed a mildly low iron of 26 and normal 
ferritin/TIBC. Hemoglobin was stable throughout admission and 
patient was asymptomatic. Diagnosis was thought to be anemia of 
chronic disease or mixed picture of iron deficiency anemia and 
ACD. 

# Stye: Patient complained of painful papule on eyelid which was 
examined and thought to be an uncomplicated stye. No further 
treatment was undertaken. 

CHRONIC ISSUES:
# HTN: Continue home amlodipine, clonidine. Initially held 
lisinopril due to ___ but this was restarted on discharged. 
# DMII: Glipizide and metformin were held due to ___ but 
restarted on discharge.
# Glaucoma: Continued home brimonidine, dorzolamide/timolol 
eyedrops
# HLD: Continued home pravastatin

TRANSITIONAL ISSUES:
- Please consider further workup for patient's anemia as noted 
above. 
# Contact: ___ ___
# Code: Full (confirmed)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. AcetaZOLamide 500 mg PO Q12H 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze 
3. amLODIPine 10 mg PO DAILY 
4. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
5. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
6. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID 
7. GlipiZIDE XL 10 mg PO DAILY 
8. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate 
9. Lisinopril 40 mg PO DAILY 
10. MetFORMIN (Glucophage) 1000 mg PO BID 
11. Pravastatin 80 mg PO QPM 
12. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN 
itchiness 
13. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
14. Bisacodyl 10 mg PO DAILY:PRN constipation 
15. Docusate Sodium 100 mg PO BID 
16. Senna 8.6 mg PO BID:PRN constipation 
17. CloNIDine 0.1 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  AcetaZOLamide 500 mg PO Q12H  
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze  
4.  amLODIPine 10 mg PO DAILY  
5.  Bisacodyl 10 mg PO DAILY:PRN constipation  
6.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID  
7.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID  
8.  CloNIDine 0.1 mg PO BID  
9.  Docusate Sodium 100 mg PO BID  
10.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID  
11.  GlipiZIDE XL 10 mg PO DAILY  
12.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate  
13.  Lisinopril 40 mg PO DAILY  
14.  MetFORMIN (Glucophage) 1000 mg PO BID  
15.  Pravastatin 80 mg PO QPM  
16.  Senna 8.6 mg PO BID:PRN constipation  
17.  Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN 
itchiness  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Ileus
Acute kidney injury
Anemia

SECONDARY DIAGNOSIS:
Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to ___ due to abdominal pain. This was 
thought to be due to an ileus, or your bowel moving slowly. We 
let your bowel rest and gave you IV fluids, and you quickly 
improved. You were discharged while tolerating a regular diet.

Please make sure to followup with your primary care doctor and 
resume all your home medications.

We wish you all the best!

Sincerely,
Your ___ care team
 
Followup Instructions:
___